US07071201B2
Example 186: Synthesis of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-[1-hydroxy-1-(2-methoxypyridin-6-yl)-methyl]indoline
Tetramethylethylenediamine (0.26 ml) was added to 6-bromo-2-methoxypyridine (0.32 g) synthesized in accordance with the method described in Tetrahedron, 1373 (1985). and 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-formylindoline (0.4 g) and diethyl ether was employed as the solvent. The resultant mixture was treated as in Example 93 to give the title compound (0.401 g) as colorless crystals (yield: 76.5%).

reactant | Tetramethylethylenediamine | 0.26 ml | CN(CCN(C)C)C | C6H16N2
reactant | 6-bromo-2-methoxypyridine | 0.32 g | BrC1=CC=CC(=N1)OC | C6H6BrNO
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-formylindoline | 0.4 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C=O)C=C1 | C22H25FN2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-[1-hydroxy-1-(2-methoxypyridin-6-yl)-methyl]indoline | 0.401 g, yield: 76.5% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C(C2=CC=CC(=N2)OC)O)C=C1 | C28H32FN3O2
